US06462032B1
5-bromo-3-methyl-indol-2-one
Under an atmosphere of nitrogen, bromine (0.96 g, 6.0 mmol) in acetic acid (5 cm3). was added drop wise to a solution of 3-methyl-2-indolinone (0.8749 g, 6.0 mmol) (Kende, et al, Synth. Commun., 12, 1, 1982) and sodium acetate (0.50 g, 6.0 mmol) in acetic acid (10 cm3). The reaction was stirred at room temperature for 3.5 h. Saturated sodium carbonate was added to quench the reaction. The water layer was extracted EtOAc (×3), dried (MgSO4), filtered, and evaporated to give the title compound (1.26 g, 93%), Mp=119-120° C.; 1H NMR (DMSO) δ 1.32 (d, 3H, J=7.66 Hz), 3.45 (q, 1H, J=7.62 Hz), 6.77 (d, 1H, J=8.23 Hz), 7.46 (s, 1H), 7.36-7.33 (m, 1H), 10.4 (s, 1H); IR (KBr) 3200, 1725 cm−1; MS (EI) m/z 224/226 (M−H)−; CHN calculated for C9H8BrNO: C, 47.82; H, 3.57; N, 6.20; Found: C, 47.44; H, 3.42; N, 6.04.

reactant | bromine | 6.0 mmol, 0.96 g | BrBr | Br2
reactant | 3-methyl-2-indolinone | 6.0 mmol, 0.8749 g | CC1C(NC2=CC=CC=C12)=O | C9H9NO
reactant | sodium acetate | 6.0 mmol, 0.50 g | C(C)(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 5 cm3 | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
product | 5-bromo-3-methyl-indol-2-one | 1.26 g, 93% | BrC1=CC2=C(C(N=C2C=C1)=O)C | C9H6BrNO
